US07531577B2
N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide and 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide were added to methylene chloride and the reaction mixture was heated to reflux until all of the solvent evaporates. The reaction mixture is heated to 150° C. and then cooled. The resulting mixture is basified by dropwise addition of aqueous NaOH solution, and then purified by preparative liquid chromatography to give N-{5-[(4,5-Dihydro-1H-imidazol-2-ylamino)-methyl]-5,6,7,8-tetrahydro-naphthalen-2-yl}-benzenesulfonamide. 5-[(4,5-Dihydro-1H-imidazol-2-ylamino)-methyl]-5,6,7,8-tetrahydro-napthalene-2-sulfonic acid phenylamide may be similarly prepared.

reactant | N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C17H20N2O2S
reactant | 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide | I.CSC=1NCCN1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{5-[(4,5-Dihydro-1H-imidazol-2-ylamino)-methyl]-5,6,7,8-tetrahydro-naphthalen-2-yl}-benzenesulfonamide | N1C(=NCC1)NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C20H24N4O2S
